US09169254B2
3-Boronobenzoic acid (300 mg, 1.81 mmol), palladium acetate (40.4 mg, 0.18 mmol), triphenylphosphine (94.6 mg, 0.36 mmol) and potassium carbonate (374.6 mg, 2.71 mmol) were added to a solution of 2-bromo-1,1′-biphenyl (0.3 ml, 1.81 mmol) in acetonitrile (10 mL)-water (2.5 ml), and the mixture was heated with stirring at 100° C. overnight. The reaction mixture was cooled and then filtered through celite, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give [1,1′;2′,1″]terphenyl-3″-carboxylic acid (191 mg, 39%).

reactant | 3-Boronobenzoic acid | 1.81 mmol, 300 mg | B(O)(O)C=1C=C(C(=O)O)C=CC1 | C7H7BO4
reactant | triphenylphosphine | 0.36 mmol, 94.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | 2.71 mmol, 374.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-1,1′-biphenyl | 1.81 mmol, 0.3 ml | BrC1=C(C=CC=C1)C1=CC=CC=C1 | C12H9Br
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 0.18 mmol, 40.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 2.5 ml | O | H2O
product | [1,1′;2′,1″]terphenyl-3″-carboxylic acid | 191 mg, 39% | C1(=CC=CC=C1)C=1C(=CC=CC1)C1=CC(=CC=C1)C(=O)O | C19H14O2
